US09145429B2
A mixture of compound 1,3-dimethylpyrimidine-2,4(1H,3H)-dione (14 g, 0.1 mol), malonamide (45 g, 0.44 mol) and sodium ethoxide (34 g, 0.4 mol) in EtOH (500 mL) was refluxed for 20 mins. The mixture was cooled to r.t, quenched by water and acidified with 1 M HCl to pH=1-2. The solid was filtered and the filter cake was concentrated in vacuo to afford compound 2,6-dihydroxynicotinamide. (10 g, yield: 65%). 1H-NMR (400 MHz, DMSO-d6) δ (ppm) 7.90-7.88 (d, 1H), 5.66-5.64 (d, 1H).

reactant | 1,3-dimethylpyrimidine-2,4(1H,3H)-dione | 0.1 mol, 14 g | CN1C(N(C(C=C1)=O)C)=O | C6H8N2O2
reactant | malonamide | 0.44 mol, 45 g | C(CC(=O)N)(=O)N | C3H6N2O2
reactant | sodium ethoxide | 0.4 mol, 34 g | [O-]CC.[Na+]
solvent | EtOH | 500 mL | CCO | C2H6O
product | 2,6-dihydroxynicotinamide | yield: 65% | OC1=C(C(=O)N)C=CC(=N1)O | C6H6N2O3
